Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Missed dialysis, soft stool, slurred speech
 
Major Surgical or Invasive Procedure:
Dialysis

 
History of Present Illness:
Ms. ___ is a ___ w/ PMH of DM2, ESRD on HD (TuThSa), Hx of 
CVA, HTN and other issues who presented to the ED with acute 
diarrhea and slurred speech.  
 Pt reports loose watery stool x 2 weeks. about ___ times per 
day. no f/c. no brbpr or melena. no n/v. no recent travel. no 
sick contacts. no abd pain. no change in stool/urine color. + 
intermittent lightheadedness and dizziness at home in the past 
week. reports still tolerating PO.  
 Pt has history of non-HD compliance. missed her HD on sat.  
 Family also thought that her slurred speech was slightly worse 
since yesterday. However, on arrival to floor, pt reports that 
she has been having slurred speech since stroke last year. She 
denies that her speech pattern is different from baseline. 
family not available for interview at time of admission.  
 In the ED, initial vitals were: 97.9 64 169/70 16 100% RA.  
 Labs were significant for WBC 8.1 w/ 83% PMNs, Hgb 10.9, Na 
131, K 6.1, HCO3 21, anion gap 20, glucose 303, Phos 8.3, VBG 
notable for pH 7.46 / 42 / 31. ECG notable for QTc 498, with no 
peaked T waves. Due to concern for slurred speech, a stat CT 
head was performed, which showed no evidence of acute process.  
 Nephrology was consulted and the patient underwent hemodialysis 
(HD only, no ultrafiltration was performed). While the patient 
was in the ED, her BP rose to 220 systolic, during which time 
she complained of headache. She was given Hydralazine 10 mg IV 
x1 and her BP came back down to the 150s-160s systolic.  
 Vitals prior to transfer were: 98.4 61 150/87 16 97% RA.  
 
Past Medical History:
IDDM2 (dx ___ yrs ago), multiple admissions for uncontrolled DM  

ESRD on hemodialysis (M, W, F)  
HTN  
Hypercholestolemia  
PSH:  
Jump graft revision with thrombectomy of right  
upper extremity AV graft ___  
___ RUE AVG revision

 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
ADMISSION EXAM:
 Vitals: 97.6 160/90 69 18 96RA  
 General: Alert, oriented x 2  
 HEENT: Sclera anicteric, dry MM, oropharynx clear, EOMI, PERRL  

 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, trace edema  
 Neuro: CNII-XII - pupils wide, slurred speech noted, otherwise 
grossly normal, ___ strength upper/lower extremities, grossly 
normal sensation, 2+ reflexes bilaterally, gait deferred.  

DISCHARGE EXAM:
 Vitals: 98.8 122-172/52-80 HR52-68 18 99RA  
 General: Alert, oriented x 3 
 HEENT: Sclera anicteric, EOMI
 Neck: Supple  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses,  no edema or cyanosis, 
orthopedic deformity at ankle joint secondary to old fracture
 Neuro: CNII-XII - slurred speech noted similar to last 
evaluation, still intelligable, otherwise grossly normal.
 
Pertinent Results:
ADMISSION LABS:;
___ 11:40AM BLOOD WBC-8.1# RBC-4.90# Hgb-10.9*# Hct-35.4# 
MCV-72*# MCH-22.2*# MCHC-30.8* RDW-18.9* RDWSD-46.0 Plt ___
___ 11:40AM BLOOD Neuts-82.9* Lymphs-9.5* Monos-5.5 Eos-1.1 
Baso-0.6 Im ___ AbsNeut-6.75* AbsLymp-0.77* AbsMono-0.45 
AbsEos-0.09 AbsBaso-0.05
___ 11:40AM BLOOD Glucose-303* UreaN-107* Creat-9.6*# 
Na-131* K-6.1* Cl-90* HCO3-21* AnGap-26*
___ 11:40AM BLOOD Calcium-8.0* Phos-8.3*# Mg-3.1*
___ 07:45AM BLOOD %HbA1c-7.6* eAG-171*

DISCHARGE LABS:
___ 06:04AM BLOOD WBC-6.6 RBC-4.45 Hgb-9.7* Hct-31.6* 
MCV-71* MCH-21.8* MCHC-30.7* RDW-18.5* RDWSD-45.5 Plt ___
___ 06:04AM BLOOD Glucose-118* UreaN-70* Creat-7.7*# 
Na-131* K-5.3* Cl-89* HCO3-26 AnGap-21*

IMAGING/REPORTS:
There is no intra-axial or extra-axial hemorrhage, mass, midline 
shift, or
acute major vascular territorial infarct. Gray-white matter 
differentiation is
preserved.  Periventricular and subcortical white matter 
hypodensities are
likely sequela of chronic small vessel disease.  This is grossly 
unchanged
from prior.  Ventricles and sulci and unremarkable.  Basilar 
cisterns are
patent.  Dense atherosclerotic calcifications noted within the 
intracranial
ICAs bilaterally.
 
There is thickening of the sphenoid sinus and right maxillary 
sinus walls
suggesting prior chronic inflammation with minimal mucosal 
thickening present
in the right maxillary sinus.  Remaining paranasal sinuses are 
clear noting
poor pneumatization of the frontal sinuses.
 
IMPRESSION: 
 
No acute intracranial process, no hemorrhage.  White matter 
changes which are
likely sequela of chronic small vessel disease.
 
Brief Hospital Course:
Ms ___ is a ___ lady with DM2, ESRD on HD (TuThSa), Hx of CVA 
with residual dysarthria, and HTN admitted after missing HD with 
family concern over soft stool and speech but found to be at 
baseline. On further questioning, it seemed that patient was at 
baseline and only worsens with missing  not taking medications 
and possibly missing HD.

# Dysarthria, intermittent - due to old stroke. Stable per pt 
and prior notes. Neuro exam w/o additional acute findings. CT 
head on admission w/o acute processes. Daughter ___ reports 
that patient has intermittent worsening of her speech at home 
when she does not take her medications or go to HD possibly from 
hypertension or metabolic derangements. ___ agrees that 
speech has been intermittently slurred several times per week 
since her original stroke. Encouraged patient to continue HD and 
control blood pressure. Out patient neurology visit arranged.

# Soft frequent stools: no signs of invasive infection. Patient 
and daughter report her frequency has been increasing over the 
last month. She has been incontinent of stool since her CVA and 
uses adult diapers at home. Her daughter is frustrated with 
increasing number of changes required. Soft bowel movements ___ 
daily can still be within the normal range of GI function. There 
is no leukocytosis. Abd exam benign. Patient without sick 
contacts or other infectious symptoms. Likely secondary to diet.
#Diabetes: Patient not on oral hypoglycemic or insulin at home, 
states that a doctor told her she no longer needed it. A1C 7.6 
on ___. Not on medications possibly due to liberalized A1C 
target of 8. Can re-evaluate need for control with PMD.
#Functional status: Patient is incontinent and bedbound. MOCA 
___ suggesting dementia. Daughter appears unable to provide 
enough personal care assistance due to arm injury and burden of 
care. Connecting family with ___, and ___. Prescribed 
electric bed, hoyer lift, and wheelchair. Unfortunately patient 
got a walker in ___ but no longer able to ambulate so insurance 
denied wheelchair. 

=====================
TRANSITIONAL ISSUES
=====================
#DM: Not on insulin or oral meds. A1C 7.6. Consider starting 
meds
#Prescribe electric wheelchair when eligible for durable medical 
equipment coverage
#HTN: consider increasing lisinopril to target BP <140 though 
unclear if liberalized for other reasons
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. HydrALAzine 50 mg PO TID 
4. Lisinopril 10 mg PO DAILY 
5. Nephrocaps 1 CAP PO DAILY 
6. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
7. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1. Wheelchair
Standards wheelchair with removable arm rest and leg rest 
Length of need : 13 months 
___ 
ICD10: R26.2, ICD9: 781.2
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. DME/ELECTRIC HOSPITAL BED
Patient with trunkal instability and poor functional bed 
mobility requiring an electric hospital bed.
ICD-10 M62.81 (PROXIMAL MUSCLE WEAKNESS)

6. ___ Lift
___ lift required due to patient immobility from foot 
deformity and truncal instability.
ICD-10 M62.81 (PROXIMAL MUSCLE WEAKNESS)

7. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
8. Nephrocaps 1 CAP PO DAILY 
9. Pravastatin 20 mg PO QPM 
10. HydrALAzine 50 mg PO TID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metabolic abnormalities from missing dialysis
Worse dysarthria with history of stroke
Soft Bowel Movements

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
___, 
You came in because you felt unwell after missing dialysis and 
your family was concerned that your speech was worse than usual. 
Your speech improved slightly after dialysis. On further 
questioning, it seems that your speech occasionally improves and 
worsens when you miss dialysis or don't take your home blood 
pressure medications. We encourage you to do both. 
You also were concerned about ___ soft bowel movements per day. 
This is normal. It is normal to have between ___ soft bowel 
movements per day. 
Given your multiple medical conditions, we thought you could 
benefit from some help at home. We set you up with a visiting 
nurse, home health aide, physical therapy, and elder services. 
We wish you the best of luck and thank you for the opportunity 
to participate in your care. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___